US05025001
Typical preparation of S-nitrosocaptopril involve the reaction of 50 mM captopril with 50 mM NaNO2 in 0.1 N acetic or sulfuric acid at room temperature for five minutes, after which the reaction solution is passed over a cation exchange resin, e.g., Dowex 50 in the protonated form, and the product eluted with water. The fractions that give positive reactions with N-(1-naphthyl)ethylenediamine, after exposure to 0.15% HgCl2 and diazotization with sulfanilamide, are lyophilized. Hygroscopic, bright red crystals (m.p. 98-104° C.) were obtained that were shown to be S-nitrosocaptopril by NMR in deuterated DMSO and by mass spectroscopy.

reactant | S-nitrosocaptopril | C[C@H](CSN=O)C(=O)N1CCC[C@H]1C(=O)O | C9H14N2O4S
reactant | captopril | 50 mM | C[C@H](CS)C(=O)N1CCC[C@H]1C(=O)O | C9H15NO3S
reactant | NaNO2 | 50 mM | N(=O)[O-].[Na+]
solvent | acetic | 0.1 N | CC(=O)OCC1=C2C=CC=CC2=C(C3=CC=CC=C31)COC(=O)C | C20H18O4
solvent | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | N-(1-naphthyl)ethylenediamine | C1(=CC=CC2=CC=CC=C12)NCCN | C12H14N2
